US06777432B1
[5-(4-fluoro-phenylcarbamoyl)-pyridin-2-yloxy]-acetic acid phenethyl ester
A solution of [5-(4-fluoro-phenylcarbamoyl)-pyridin-2-yloxy]-acetic acid methyl ester (0.020 g, 0.66 mmol), phenethyl alcohol (0.078 mL, 0.66 mmol) and sulfuric acid (1 drop) in toluene (3 mL) was heated at reflux. After 4 h the reaction mixture was poured into ethyl acetate and washed with saturated sodium bicarbonate and dried over sodium sulfate. Removal of the solvents provided a solid. Purification by trituration using ethyl acetate/hexanes gave 0.011 g (42%) of the titled product as a white solid: 1H NMR (300 MHz, DMSO-d6) δ 10.29 (s 1H); 8.65 (m, 1H); 8.23 (m, 1H); 7.74 (m, 2H); 7.01-7.27 (m, 8H); 4.94 (s, 2H); 4.27 (m, 2H); 2.85 (m, 2H); MS (EI) m/z 393.03 (M−H)−.

reactant | [5-(4-fluoro-phenylcarbamoyl)-pyridin-2-yloxy]-acetic acid methyl ester | 0.66 mmol, 0.020 g | COC(COC1=NC=C(C=C1)C(NC1=CC=C(C=C1)F)=O)=O | C15H13FN2O4
reactant | phenethyl alcohol | 0.66 mmol, 0.078 mL | C(CC1=CC=CC=C1)O | C8H10O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | sulfuric acid | 1 drop | S(O)(O)(=O)=O | H2O4S
solvent | toluene | 3 mL | C1(=CC=CC=C1)C | C7H8
product | [5-(4-fluoro-phenylcarbamoyl)-pyridin-2-yloxy]-acetic acid phenethyl ester | 0.011 g, 42% | C(CC1=CC=CC=C1)OC(COC1=NC=C(C=C1)C(NC1=CC=C(C=C1)F)=O)=O | C22H19FN2O4
